US06737426B1
Preparation of (4-phenylsulfonyl-2-thiophen-2-yl-oxazol-5-yl)benzylamine
N(1-Phenylsulfonyl-2,2,2-trichloroethyl)thiophene-2-carboxamide (0.4 g, 1.003 mmol) is dissolved in tetrahydrofuran, mixed with benzylamine (0.428 g, 4.012 mmol) and stirred overnight at room temperature. The resulting precipitate was filtered off with suction and discarded, the mother liquor was concentrated in a rotary evaporator and the residue was crystallized in 15 ml of petroleum ether, filtered off with suction and dried in air.

reactant | N(1-Phenylsulfonyl-2,2,2-trichloroethyl)thiophene-2-carboxamide | 1.003 mmol, 0.4 g | C1(=CC=CC=C1)S(=O)(=O)C(C(Cl)(Cl)Cl)NC(=O)C=1SC=CC1 | C13H10Cl3NO3S2
reactant | benzylamine | 4.012 mmol, 0.428 g | C(C1=CC=CC=C1)N | C7H9N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (4-phenylsulfonyl-2-thiophen-2-yl-oxazol-5-yl)benzylamine | C1(=CC=CC=C1)S(=O)(=O)C=1N=C(OC1NCC1=CC=CC=C1)C=1SC=CC1 | C20H16N2O3S2
